US09255093B2
To a solution of 2-(2-formyl-5-methylphenoxy)acetonitrile (11.12 g, 63.5 mmol) in 244 mL of EtOH was added KOH (14.85 g, 265 mmol), and the mixture was refluxed overnight. The reaction mixture was cooled to room temperature and the solvent was evaporated until a thick slurry was obtained, which was diluted with 204 mL H2O. To the resulting solution was added concentrated HCl, a white precipitate formed, and the mixture was filtered, the solid was washed with H2O and dried under the vacuum oven at 50° C. to yield 6-methylbenzofuran-2-carboxylic acid (11.2 g). LCMS retention time=1.00 minutes (LC method 3); MS (m−1)=175.0. 1H NMR (400 MHz, DMSO-d6) δ 2.45 (s, 3H), 7.13-7.18 (m, 1H), 7.47 (s, 2H), 7.62 (d, J=8.0 Hz, 1H).

reactant | 2-(2-formyl-5-methylphenoxy)acetonitrile | 63.5 mmol, 11.12 g | C(=O)C1=C(OCC#N)C=C(C=C1)C | C10H9NO2
reactant | KOH | 265 mmol, 14.85 g | [OH-].[K+]
reactant | HCl | Cl | ClH
reactant | H2O | 204 mL | O | H2O
solvent | EtOH | 244 mL | CCO | C2H6O
product | 6-methylbenzofuran-2-carboxylic acid | 11.2 g | CC1=CC2=C(C=C(O2)C(=O)O)C=C1 | C10H8O3
